Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CCOP(=O)(OCC)[CH2:1][c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[O-:8])[c:9]([Cl:10])[cH:11]1.O=[C:12]1[CH2:13][CH2:14][N:15]([C:16]([O:17][C:18]([CH3:19])([CH3:20])[CH3:21])=[O:22])[CH2:23][CH2:24]1>>[CH:1]([c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[O-:8])[c:9]([Cl:10])[cH:11]1)=[C:12]1[CH2:13][CH2:14][N:15]([C:16]([O:17][C:18]([CH3:19])([CH3:20])[CH3:21])=[O:22])[CH2:23][CH2:24]1,CCO[P:101](=[O:201])(OCC)[CH2:1][c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[OH:8])[c:9]([Cl:10])[cH:11]1.[O:102]=[C:12]1[CH2:13][CH2:14][N:15]([C:16]([O:17][C:18]([CH3:19])([CH3:20])[CH3:21])=[O:22])[CH2:23][CH2:24]1.[OH1-:301]>>[CH:1]([c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[OH:8])[c:9]([Cl:10])[cH:11]1)=[C:12]1[CH2:13][CH2:14][N:15]([C:16]([O:17][C:18]([CH3:19])([CH3:20])[CH3:21])=[O:22])[CH2:23][CH2:24]1,Horner_Wadsworth_Emmons,"[(301, 1.1), ([1.1, 1], 1), (1, 12), ([12, 102], 101), ([101, 201], 201), ([12, 102], [102, 101]), ([101, 1], [1, 12])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[O-:8])[cH:9][cH:10]1)(=[O:11])=[O:12].[NH2:13][c:14]1[cH:15][cH:16][n:17][cH:18][n:19]1>>[S:1]([c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[O-:8])[cH:9][cH:10]1)(=[O:11])(=[O:12])[NH:13][c:14]1[cH:15][cH:16][n:17][cH:18][n:19]1,[Cl:101][S:1]([c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[OH:8])[cH:9][cH:10]1)(=[O:11])=[O:12].[NH2:13][c:14]1[cH:15][cH:16][n:17][cH:18][n:19]1>>[S:1]([c:2]1[cH:3][cH:4][c:5]([N+:6](=[O:7])[OH:8])[cH:9][cH:10]1)(=[O:11])(=[O:12])[NH:13][c:14]1[cH:15][cH:16][n:17][cH:18][n:19]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(13, 1), ([1, 11], 11), (11, [11, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](Cl)=[S:2].[CH3:3][NH:4][S:5](=[O:6])(=[O:7])[c:8]1[cH:9][cH:10][c:11]([NH2:12])[cH:13][cH:14]1>>[C:1](=[S:2])=[N:12][c:11]1[cH:10][cH:9][c:8]([S:5]([NH:4][CH3:3])(=[O:6])=[O:7])[cH:14][cH:13]1,[CH3:3][NH:4][S:5](=[O:6])(=[O:7])[c:8]1[cH:9][cH:10][c:11]([NH2:12])[cH:13][cH:14]1.[Cl:101][C:1]([Cl:102])=[S:2]>>[C:1](=[S:2])=[N:12][c:11]1[cH:10][cH:9][c:8]([S:5]([NH:4][CH3:3])(=[O:6])=[O:7])[cH:14][cH:13]1,isothiocyanate_synthesis,"[(12, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), (101, 12.1), ([12.1, 12], 12), (12, [12, 1]), ([1, 102], 102), (102, 12.1), ([12.1, 12], 12)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[c:3]1[n:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([O:10][CH3:11])[cH:12][cH:13]2)[c:14]2[s:15][n:16][c:17](-[c:18]3[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]3)[c:25]2[c:26]1[OH:27].[NH2:28][CH2:29][C:30](=[O:31])[OH:32]>>[C:1](=[O:2])([c:3]1[n:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([O:10][CH3:11])[cH:12][cH:13]2)[c:14]2[s:15][n:16][c:17](-[c:18]3[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]3)[c:25]2[c:26]1[OH:27])[NH:28][CH2:29][C:30](=[O:31])[OH:32],CC[O:101][C:1](=[O:2])[c:3]1[n:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([O:10][CH3:11])[cH:12][cH:13]2)[c:14]2[s:15][n:16][c:17](-[c:18]3[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]3)[c:25]2[c:26]1[OH:27].[NH2:28][CH2:29][C:30](=[O:31])[OH:32]>>[C:1](=[O:2])([c:3]1[n:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([O:10][CH3:11])[cH:12][cH:13]2)[c:14]2[s:15][n:16][c:17](-[c:18]3[cH:19][cH:20][c:21]([Cl:22])[cH:23][cH:24]3)[c:25]2[c:26]1[OH:27])[NH:28][CH2:29][C:30](=[O:31])[OH:32],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(28, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[c:3]([N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[C:12](=[O:13])[O:14][C:15]([CH3:16])([CH3:17])[CH3:18])[n:19][cH:20][c:21]([Br:22])[cH:23]1.[CH3:24][S-:25]>>[CH2:1]([c:2]1[c:3]([N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[C:12](=[O:13])[O:14][C:15]([CH3:16])([CH3:17])[CH3:18])[n:19][cH:20][c:21]([Br:22])[cH:23]1)[S:25][CH3:24],[Br:101][CH2:1][c:2]1[c:3]([N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[C:12](=[O:13])[O:14][C:15]([CH3:16])([CH3:17])[CH3:18])[n:19][cH:20][c:21]([Br:22])[cH:23]1.[CH3:24][S-:25]>>[CH2:1]([c:2]1[c:3]([N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[C:12](=[O:13])[O:14][C:15]([CH3:16])([CH3:17])[CH3:18])[n:19][cH:20][c:21]([Br:22])[cH:23]1)[S:25][CH3:24],SN2,"[(25, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
